* gnetlist -g spice-sdb -o ConstantCurrentTestDiode.net ConstantCurrentTestDiode.sch
*********************************************************
* Spice file generated by gnetlist                      *
* spice-sdb version 4.28.2007 by SDB --                 *
* provides advanced spice netlisting capability.        *
* Documentation at http://www.brorson.com/gEDA/SPICE/   *
*********************************************************
*vvvvvvvv  Included SPICE model from /home/ksarkies/Development-Electronics/NonProject/Spice-models/models.lib vvvvvvvv
* Spice models being used in simulations

**  BJT

************************************************************************************
.model BC548 NPN( LEVEL=1 Is=20.75f Xti=3 Eg=1.11 Vaf=100 Bf=113.4 Ise=224.4f
+               Ne=1.439 Ikf=76.38m Xtb=1.8 Br=2.025 Isc=163.1p
+               Nc=1.438 Ikr=5.567 Rc=1.156 Cjc=3.334p Mjc=.2086 Vjc=.5 Fc=.5
+               Cje=4.118p Mje=.3794 Vje=.5 Tr=45.49n Tf=236.7p Itf=1.912
+               Xtf=43.51 Vtf=10 RB=0)
************************************************************************************
.MODEL T2N2222 NPN( LEVEL=1 BF=241 NE=1.35 IK=.35
+ IS=3.52E-14 VA=100 VB=100 BR=13.1 NC=1.61 IKR=.106
+ CJE=23.8PF ME=.43 PE=1.0 CJC=14.7PF MC=.42 PC=1.0
+ RE=.26 RC=.30 RB=2.1 TF=.31NS TR=89NS )
************************************************************************************
.model MPS2907	PNP(Is=4.661f Xti=3 Eg=1.11 Vaf=100 Bf=402.8 Ne=1.352
+		Ise=14.55f Ikf=.1132 Xtb=1.5 Br=3.07 Nc=2 Isc=0 Ikr=0 Rc=.6
+		Cjc=21.35p Mjc=.5234 Vjc=.75 Fc=.5 Cje=26.22p Mje=.3809 Vje=.75
+		Tr=32.63n Tf=417.6p Itf=.8 Vtf=12 Xtf=20 Rb=10)
************************************************************************************
.model Q2N3906 PNP( LEVEL=1 BF=135,BR=4.55,IS=4.47E-15,RB=5.8,RC=25,RE=.8,
+VA=25,VB=10.8,IK=61.7M,NE=1.394,IKR=.03,NC=1.325,TF=.282N,
+CJE=5.67P,PE=.83,ME=.4,CJC=2.21P,PC=.43,MC=.5,EG=1.11)
************************************************************************************
.model Q2N3904 NPN( LEVEL=1 BF=238,IS=1.27E-14,RB=12,RC=25,RE=.3,
+VA=241,IK=.1099,NE=1.399,TF=1.53E-10,CJE=5.9P,PE=.83,ME=.4,
+CJC=2.11P,PC=.5,MC=.5,EG=1.11)
************************************************************************************
.model Q2N5769	NPN( LEVEL=1 Is=44.14f Xti=3 Eg=1.11 Vaf=100 Bf=78.32 Ne=1.389
+		Ise=91.95f Ikf=.3498 Xtb=1.5 Br=12.69m Nc=2 Isc=0 Ikr=0 Rc=.6
+		Cjc=2.83p Mjc=86.19m Vjc=.75 Fc=.5 Cje=4.5p Mje=.2418 Vje=.75
+		Tr=1.073u Tf=227.6p Itf=.3 Vtf=4 Xtf=4 Rb=10)
************************************************************************************
.model Q2N5771	PNP(LEVEL=1 Is=545.6E-18 Xti=3 Eg=1.11 Vaf=100 Bf=76.77 Ne=1.5 Ise=0
+		Ikf=50m Xtb=1.5 Br=1.365 Nc=2 Isc=0 Ikr=0 Rc=3.75 Cjc=2.77p
+		Mjc=.1416 Vjc=.75 Fc=.5 Cje=2.65p Mje=.3083 Vje=.75 Tr=4.033n
+		Tf=118.5p Itf=.5 Vtf=3 Xtf=6 Rb=10)
************************************************************************************
.model BC546B NPN( LEVEL=1 IS=7.59E-15 VAF=73.4 BF=480 IKF=0.0962 NE=1.2665
+    ISE=3.278E-15 IKR=0.03 ISC=2.00E-13 NC=1.2 NR=1 BR=5 RC=0.25 CJC=6.33E-12
+    FC=0.5 MJC=0.33 VJC=0.65 CJE=1.25E-11 MJE=0.55 VJE=0.65 TF=4.26E-10
+    ITF=0.6 VTF=3 XTF=20 RB=100 IRB=0.0001 RBM=10 RE=0.5 TR=1.50E-07)
************************************************************************************
.model BC337 NPN( LEVEL=1 IS=8.52E-15 VAF=120.7 BF=280 IKF=1.1412 NE=1.3647
+    ISE=3.562E-14 IKR=0.1 ISC=1.00E-12 NC=1.4 NR=1 BR=10 RC=0.05 CJC=1.20E-11
+    FC=0.5 MJC=0.28 VJC=0.4 CJE=3.10E-11 MJE=0.38 VJE=0.9 TF=4.10E-10
+    ITF=1.5 VTF=3 XTF=25 RE=0.2 TR=8.00E-10)
************************************************************************************
.model TIP31   NPN(LEVEL=1 Is=2.447p Xti=3 Eg=1.11 Vaf=100 Bf=208.2 Ise=70.69p
+               Ne=1.565 Ikf=.9743 Xtb=1.5 Br=12.59 Isc=11.68n
+               Nc=1.835 Ikr=3.86 Rc=.4685 Cjc=142p Mjc=.4353 Vjc=.75 Fc=.5
+               Cje=188.5p Mje=.4878 Vje=.75 Tr=194.2n Tf=19.85n Itf=164.1
+               Xtf=5.945 Vtf=10 Rb=.1)
************************************************************************************
.model TIP32   PNP(Is=51.23f Xti=3 Eg=1.11 Vaf=100 Bf=434.1 Ise=51.23f Ne=1.22
+               Ikf=.3883 Xtb=2.2 Br=55.47 Isc=51.23f Nc=1.205
+               Ikr=10.87 Rc=.3443 Cjc=136.9p Mjc=.3155 Vjc=.75 Fc=.5
+               Cje=179.9p Mje=.4294 Vje=.75 Tr=20.25n Tf=13.05n Itf=6.85
+               Xtf=1.573 Vtf=10 Rb=.1)
************************************************************************************

** DIODES

************************************************************************************
.MODEL D1N4148  D( RS=.8   IS=2.4P    N=1.77 BV=75    IBV=.001  CJO=1.5P
+                 VJ=.75   M=.5     TT=5.8N )
************************************************************************************
.MODEL D1N4001 D(IS=29.5E-9 RS=73.5E-3 N=1.96 CJO=34.6P VJ=0.627 M=0.461 BV=60 IBV=10U)
************************************************************************************
.model D1N914	D(Is=0.1p Rs=16 CJO=2p Tt=12n Bv=100 Ibv=0.1p)
************************************************************************************
* Schottky Diodes

************************************************************************************
.MODEL D1N5819       D(Is=2.835u Rs=47.12m Ikf=.3227 N=1 Xti=0 Eg=1.11 Cjo=302.5p
+		M=.7206 Vj=.75 Fc=.5)
************************************************************************************
** Zener Diodes

************************************************************************************
.model D1N4099	D(Is=1.004f Rs=.5875 Ikf=0 N=1 Xti=3 Eg=1.11 Cjo=160p M=.5484
+		Vj=.75 Fc=.5 Bv=6.8 Ibv=27.721m)
************************************************************************************
.model D1N4627	D(Is=1.004f Rs=.5875 Ikf=0 N=1 Xti=3 Eg=1.11 Cjo=160p M=.5484
+		Vj=.75 Fc=.5 Bv=6.2 Ibv=27.721m)
************************************************************************************
.model D1N4100	D(Is=1.004f Rs=.5875 Ikf=0 N=1 Xti=3 Eg=1.11 Cjo=160p M=.5484
+		Vj=.75 Fc=.5 Bv=7.5 Ibv=27.721m)
************************************************************************************
.model D1N4101	D(Is=1.004f Rs=.5875 Ikf=0 N=1 Xti=3 Eg=1.11 Cjo=160p M=.5484
+		Vj=.75 Fc=.5 Bv=8.2 Ibv=27.721m)
************************************************************************************
.model DZener12	D(Is=1.004f Rs=.5875 Ikf=0 N=1 Xti=3 Eg=1.11 Cjo=160p M=.5484
+		Vj=.75 Fc=.5 Bv=12 Ibv=27.721m)
************************************************************************************
.model DZener42	D(Is=1.004f Rs=.5875 Ikf=0 N=1 Xti=3 Eg=1.11 Cjo=160p M=.5484
+		Vj=.75 Fc=.5 Bv=4.2 Ibv=27.721m)
************************************************************************************

* OpAmps

************************************************************************************
* connections:    non-inverting input
*                 |   inverting input
*                 |   |   positive power supply
*                 |   |   |   negative power supply
*                 |   |   |   |   output
*                 |   |   |   |   |
*                 |   |   |   |   |
.SUBCKT LF411     1   2  99  50  28
*
*Features:
*Fast settling time (.01%) =           2uS
*High bandwidth =                     3MHz
*High slew rate =                   10V/uS
*Low offset voltage =                 .5mV
*Low supply current =                1.8mA
*
****************INPUT STAGE************** 
*
IOS 2 1 25.0P
*^Input offset current
CI1 1 0 3P
CI2 2 0 3P
R1 1 3 5E11
R2 3 2 5E11
I1 99 4 1.0M
J1 5 2 4 JX
J2 6 7 4 JX
R3 5 50 650
R4 6 50 650
*Fp2=28 MHZ
C4 5 6 4.372P 
*
***********COMMON MODE EFFECT***********
*
I2 99 50 800UA
*^Quiescent supply current
EOS 7 1 POLY(1) 16 49 .8E-3 1
*Input offset voltage.^
R8 99 49 80K
R9 49 50 80K
*
*********OUTPUT VOLTAGE LIMITING********
V2 99 8 2.13
D1 9 8 DX
D2 10 9 DX
V3 10 50 2.13
*
**************SECOND STAGE**************
*
EH 99 98 99 49 1
G1 98 9 5 6 20E-3
R5 98 9 10MEG
VA3 9 11 0
*Fp1=18 HZ
C3 98 11 857.516P
*
***************POLE STAGE***************
*
*Fp=30 MHz
G3 98 15 9 49 1E-6
R12 98 15 1MEG
C5 98 15 5.305E-15
*
*********COMMON-MODE ZERO STAGE*********
*
G4 98 16 3 49 1E-8
L2 98 17 144.7M
R13 17 16 1K
*
**************OUTPUT STAGE**************
*
F6  99 50 VA7 1
F5  99 23 VA8 1
D5  21 23 DX
VA7 99 21 0
D6  23 99 DX
E1  99 26 99 15 1
VA8 26 27 0
R16 27 28 50
V5  28 25 0.646V
D4  25 15 DX
V4  24 28 0.646V
D3  15 24 DX
*
***************MODELS USED**************
*
.MODEL DX D(IS=1E-15)
.MODEL JX PJF(BETA=1.183E-3 VTO=-.65 IS=50E-12)
*
.ENDS
************************************************************************************
*//////////////////////////////////////////////////////////
*LM324 Low Power Quad OPERATIONAL AMPLIFIER MACRO-MODEL
*//////////////////////////////////////////////////////////
*
* connections:      non-inverting input
*                   |   inverting input
*                   |   |   positive power supply
*                   |   |   |   negative power supply
*                   |   |   |   |   output
*                   |   |   |   |   |
*                   |   |   |   |   |
.SUBCKT LM324       1   2  99  50  28
*
*Features:
*Eliminates need for dual supplies
*Large DC voltage gain =             100dB
*High bandwidth =                     1MHz
*Low input offset voltage =            2mV
*Wide supply range =        +-1.5V to +-16V
*
*NOTE: Model is for single device only and simulated
*      supply current is 1/4 of total device current.
*      Output crossover distortion with dual supplies
*      is not modeled.
*
****************INPUT STAGE**************
*
IOS 2 1 5N
*^Input offset current
R1 1 3 500K
R2 3 2 500K
I1 99 4 100U
R3 5 50 517
R4 6 50 517
Q1 5 2 4 QX
Q2 6 7 4 QX
*Fp2=1.2 MHz
C4 5 6 128.27P
*
***********COMMON MODE EFFECT***********
*
I2 99 50 75U
*^Quiescent supply current
EOS 7 1 POLY(1) 16 49 2E-3 1
*Input offset voltage.^
R8 99 49 60K
R9 49 50 60K
*
*********OUTPUT VOLTAGE LIMITING********
V2 99 8 1.63
D1 9 8 DX
D2 10 9 DX
V3 10 50 .635
*
**************SECOND STAGE**************
*
EH 99 98 99 49 1
G1 98 9 POLY(1) 5 6 0 9.8772E-4 0 .3459
*Fp1=7.86 Hz
R5 98 9 101.2433MEG
C3 98 9 200P
*
***************POLE STAGE***************
*
*Fp=2 MHz
G3 98 15 9 49 1E-6
R12 98 15 1MEG
C5 98 15 7.9577E-14
*
*********COMMON-MODE ZERO STAGE*********
*
*Fpcm=10 KHz
G4 98 16 3 49 5.6234E-8               
L2 98 17 15.9M
R13 17 16 1K
*
**************OUTPUT STAGE**************
*
F6 50 99 POLY(1) V6 300U 1
E1 99 23 99 15 1
R16 24 23 17.5
D5 26 24 DX
V6 26 22 .63V
R17 23 25 17.5
D6 25 27 DX
V7 22 27 .63V
V5 22 21 0.27V
D4 21 15 DX
V4 20 22 0.27V
D3 15 20 DX
L3 22 28 500P
RL3 22 28 100K
*
***************MODELS USED**************
*
.MODEL DX D(IS=1E-15)
.MODEL QX PNP(BF=1.111E3)
*
.ENDS
************************************************************************************
*
* connections:      non-inverting input
*                   |   inverting input
*                   |   |   positive power supply
*                   |   |   |   negative power supply
*                   |   |   |   |   output
*                   |   |   |   |   |
*                   |   |   |   |   |
.SUBCKT LM118       1   2  99  50  28
*
*Features:
*Internal frequency compensation
*High bandwidth =                    15MHz
*Minimum slew rate =                50V/uS
*Low bias current =                  250nA
*Wide supply range =         +-5V to +-20V
*
****************INPUT STAGE**************
*
IOS 2 1 6N
*^Input offset current
R1 1 3 1.5MEG
R2 3 2 1.5MEG
I1 4 50 100U
R3 99 5 517
R4 99 6 517
Q1 5 2 4 QX
Q2 6 7 4 QX
*Fp2=25 MHz
C4 5 6 6.1569P
*
***********COMMON MODE EFFECT***********
*
I2 99 50 4.9M
*^Quiescent supply current
EOS 7 1 POLY(1) 16 49 4E-3 1
*Input offset voltage.^
R8 99 49 80.2K
R9 49 50 80.2K
*
*********OUTPUT VOLTAGE LIMITING********
V2 99 8 2.63
D1 9 8 DX
D2 10 9 DX
V3 10 50 2.63
*
**************SECOND STAGE**************
*
EH 99 98 99 49 1
G1 98 9 POLY(1) 5 6 0 3.0967E-4 0 596.674E-3
*Fp1=115 Hz
R5 98 9 9.6877G
C3 98 9 1.4286P
*
************POLE/ZERO STAGE*************
*
*Fp=300 KHz, Fz=600 KHz
G2 98 13 9 49 1E-6
R10 98 13 1MEG
R11 98 14 1MEG
C6 14 13 2.6526E-13
*
***************POLE STAGE***************
*
*Fp=55 MHz
G3 98 15 13 49 1E-6
R12 98 15 1MEG
C5 98 15 2.8937E-15
*
*********COMMON-MODE ZERO STAGE*********
*
*Fpcm=3 KHz
G4 98 16 3 49 1E-8                    
L2 98 17 53.1M
R13 17 16 1K
*
**************OUTPUT STAGE**************
*
F6 50 99 POLY(1) V6 200U 1
E1 99 23 99 15 1
R16 24 23 30
D5 26 24 DX
V6 26 22 .63V
R17 23 25 30
D6 25 27 DX
V7 22 27 .63V
C9 23 22 100P
V5 22 21 0.2V
D4 21 15 DX
V4 20 22 0.2V
D3 15 20 DX
L3 22 28 100P
RL3 22 28 100K
*
***************MODELS USED**************
*
.MODEL DX D(IS=1E-15)
.MODEL QX NPN(BF=333.333)
*
.ENDS
************************************************************************************

* MOSFETS

************************************************************************************
.SUBCKT irf1104 1 2 3
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Jan  6, 98
* MODEL FORMAT: SPICE3
* Symmetry POWER MOS Model (Version 1.0)
* External Node Designations
* Node 1 -> Drain
* Node 2 -> Gate
* Node 3 -> Source
M1 9 7 8 8 MM L=100u W=100u
* Default values used in MM:
* The voltage-dependent capacitances are
* not included. Other default values are:
*   RS=0 RD=0 LD=0 CBD=0 CBS=0 CGBO=0
.MODEL MM NMOS LEVEL=1 IS=1e-32
+VTO=4.016 LAMBDA=0 KP=24.9968
+CGSO=2.67866e-05 CGDO=1.00181e-06
RS 8 3 0.0001
D1 3 1 MD
.MODEL MD D IS=2.9505e-11 RS=0.00319022 N=1.10603 BV=40
+IBV=0.00025 EG=1.2 XTI=2.95239 TT=1.99991e-05
+CJO=3.41485e-09 VJ=1.33209 M=0.470743 FC=0.1
RDS 3 1 1e+06
RD 9 1 0.00327083
RG 2 7 4.09017
D2 4 5 MD1
* Default values used in MD1:
*   RS=0 EG=1.11 XTI=3.0 TT=0
*   BV=infinite IBV=1mA
.MODEL MD1 D IS=1e-32 N=50
+CJO=1.7269e-09 VJ=0.934228 M=0.806705 FC=1e-08
D3 0 5 MD2
* Default values used in MD2:
*   EG=1.11 XTI=3.0 TT=0 CJO=0
*   BV=infinite IBV=1mA
.MODEL MD2 D IS=1e-10 N=0.4 RS=3e-06
RL 5 10 1
FI2 7 9 VFI2 -1
VFI2 4 0 0
EV16 10 0 9 7 1
CAP 11 10 2.28735e-09
FI1 7 9 VFI1 -1
VFI1 11 6 0
RCAP 6 10 1
D4 0 6 MD3
* Default values used in MD3:
*   EG=1.11 XTI=3.0 TT=0 CJO=0
*   RS=0 BV=infinite IBV=1mA
.MODEL MD3 D IS=1e-10 N=0.4
.ENDS irf1104
************************************************************************************
.SUBCKT irf5305s 1 2 3
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Apr 23, 96
* Model format: SPICE3
* Symmetry POWER MOS Model (Version 1.0)
* External Node Designations
* Node 1 -> Drain
* Node 2 -> Gate
* Node 3 -> Source
M1 9 7 8 8 MM L=100u W=100u
* Default values used in MM:
* The voltage-dependent capacitances are
* not included. Other default values are:
*   RS=0 RD=0 LD=0 CBD=0 CBS=0 CGBO=0
.MODEL MM PMOS LEVEL=1 IS=1e-32
+VTO=-3.45761 LAMBDA=0 KP=10.066
+CGSO=1.03141e-05 CGDO=1e-11
RS 8 3 0.0262305
D1 1 3 MD
.MODEL MD D IS=8.90854e-09 RS=0.00921723 N=1.5 BV=55
+IBV=0.00025 EG=1.2 XTI=3.13635 TT=1e-07
+CJO=1.30546e-09 VJ=0.663932 M=0.419045 FC=0.5
RDS 3 1 2.2e+06
RD 9 1 0.0001
RG 2 7 11.0979
D2 5 4 MD1
* Default values used in MD1:
*   RS=0 EG=1.11 XTI=3.0 TT=0
*   BV=infinite IBV=1mA
.MODEL MD1 D IS=1e-32 N=50
+CJO=1.63729e-09 VJ=0.791199 M=0.552278 FC=1e-08
D3 5 0 MD2
* Default values used in MD2:
*   EG=1.11 XTI=3.0 TT=0 CJO=0
*   BV=infinite IBV=1mA
.MODEL MD2 D IS=1e-10 N=0.400245 RS=3e-06
RL 5 10 1
FI2 7 9 VFI2 -1
VFI2 4 0 0
EV16 10 0 9 7 1
CAP 11 10 1.89722e-09
FI1 7 9 VFI1 -1
VFI1 11 6 0
RCAP 6 10 1
D4 6 0 MD3
* Default values used in MD3:
*   EG=1.11 XTI=3.0 TT=0 CJO=0
*   RS=0 BV=infinite IBV=1mA
.MODEL MD3 D IS=1e-10 N=0.400245
.ENDS
************************************************************************************
.SUBCKT irf1404 1 2 3
* SPICE3 MODEL WITH THERMAL RC NETWORK
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on April 2, 01
* MODEL FORMAT: SPICE3
* Symmetry POWER MOS Model (Version 1.0)
* External Node Designations
* Node 1 -> Drain
* Node 2 -> Gate
* Node 3 -> Source
M1 9 7 8 8 MM L=100u W=100u
.MODEL MM NMOS LEVEL=1 IS=1e-32
+VTO=3.74133 LAMBDA=0.00250986 KP=514.947
+CGSO=7.17952e-05 CGDO=1.60578e-08
RS 8 3 0.00282867
D1 3 1 MD
.MODEL MD D IS=1.89845e-10 RS=0.00218742 N=1.20398 BV=40
+IBV=0.00025 EG=1.2 XTI=1.85712 TT=2.00014e-05
+CJO=5.42237e-09 VJ=2.67939 M=0.566441 FC=0.1
RDS 3 1 1e+06
RD 9 1 0.000681391
RG 2 7 3.16781
D2 4 5 MD1
* Default values used in MD1:
*   RS=0 EG=1.11 XTI=3.0 TT=0
*   BV=infinite IBV=1mA
.MODEL MD1 D IS=1e-32 N=50
+CJO=3.13813e-09 VJ=0.970446 M=0.823421 FC=1e-08
D3 0 5 MD2
* Default values used in MD2:
*   EG=1.11 XTI=3.0 TT=0 CJO=0
*   BV=infinite IBV=1mA
.MODEL MD2 D IS=1e-10 N=0.4 RS=3e-06
RL 5 10 1
FI2 7 9 VFI2 -1
VFI2 4 0 0
EV16 10 0 9 7 1
CAP 11 10 7.84089e-09
FI1 7 9 VFI1 -1
VFI1 11 6 0
RCAP 6 10 1
D4 0 6 MD3
* Default values used in MD3:
*   EG=1.11 XTI=3.0 TT=0 CJO=0
*   RS=0 BV=infinite IBV=1mA
.MODEL MD3 D IS=1e-10 N=0.4
.ENDS irf1404

*SPICE Thermal Model Subcircuit
.SUBCKT irf1404t 3 0

R_RTHERM1         2 3  0.111879  
R_RTHERM2         1 2  0.036615  
R_RTHERM3         0 1  0.127457  
C_CTHERM1         2 3  0.010494  
C_CTHERM2         1 2  0.00271  
C_CTHERM3         0 1  0.107  

.ENDS irf1404t

************************************************************************************
.SUBCKT 2n7000 1 2 3
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Mar 31, 04
* MODEL FORMAT: SPICE3
* Symmetry POWER MOS Model (Version 1.0)
* External Node Designations
* Node 1 -> Drain
* Node 2 -> Gate
* Node 3 -> Source
M1 9 7 8 8 MM L=100u W=100u
* Default values used in MM:
* The voltage-dependent capacitances are
* not included. Other default values are:
*   RS=0 RD=0 LD=0 CBD=0 CBS=0 CGBO=0
.MODEL MM NMOS LEVEL=1 IS=1e-32
+VTO=2.236 LAMBDA=0 KP=0.0932174
+CGSO=1.79115e-07 CGDO=1.0724e-11
RS 8 3 1.10523
D1 3 1 MD
.MODEL MD D IS=2.71011e-10 RS=0.0140826 N=1.5 BV=60
+IBV=1e-05 EG=1.16084 XTI=3.00131 TT=0
+CJO=3.41211e-11 VJ=4.67429 M=0.899864 FC=0.1
RDS 3 1 2.4e+11
RD 9 1 0.0001
RG 2 7 2.18034
D2 4 5 MD1
* Default values used in MD1:
*   RS=0 EG=1.11 XTI=3.0 TT=0
*   BV=infinite IBV=1mA
.MODEL MD1 D IS=1e-32 N=50
+CJO=7.93181e-11 VJ=0.643298 M=0.9 FC=1e-08
D3 0 5 MD2
* Default values used in MD2:
*   EG=1.11 XTI=3.0 TT=0 CJO=0
*   BV=infinite IBV=1mA
.MODEL MD2 D IS=1e-10 N=0.400165 RS=3.00002e-06
RL 5 10 1
FI2 7 9 VFI2 -1
VFI2 4 0 0
EV16 10 0 9 7 1
CAP 11 10 1.58786e-10
FI1 7 9 VFI1 -1
VFI1 11 6 0
RCAP 6 10 1
D4 0 6 MD3
* Default values used in MD3:
*   EG=1.11 XTI=3.0 TT=0 CJO=0
*   RS=0 BV=infinite IBV=1mA
.MODEL MD3 D IS=1e-10 N=0.400165
.ENDS 2n7000

*
*  ZETEX  ZVN3306A Mosfet Spice Subcircuit   Last revision  3/5/00
*
.SUBCKT ZVN3306A 3 4 5
*                D G S
M1 3 2 5 5 N3306M
RG 4 2 270
RL 3 5 1.2E8
C1 2 5 28E-12
C2 3 2 3E-12 
D1 5 3 N3306D
*
.MODEL N3306M NMOS VTO=1.824 RS=1.572 RD=1.436 IS=1E-15 KP=.1233
+CBD=35E-12 PB=1
.MODEL N3306D D IS=5E-12 RS=.768
.ENDS ZVN3306A

*^^^^^^^^  End of included SPICE model from /home/ksarkies/Development-Electronics/NonProject/Spice-models/models.lib ^^^^^^^^
*
*==============  Begin SPICE netlist of main design ============
D1 Q1B 0 D1N4001 
I1 1 Q1B 1A
R2 Q1C 1 1.5K  
R1 0 Q1B 100  
Q1 Q1C Q1B 0 BC337 
V1 1 0 DC 12V
.end
